US07214673B2
(S)-2-(2-(4-Fluoro-phenyl)-ethyl)-piperazine
Combine (S)-1,4-dibenzyl-2-(2-(4-fluoro-phenyl)-ethyl)-piperazine (1.94 g, 4.99 mmol), ammonium formate (1.57 g, 24.95 mmol), 5% Pd/C (241.1 mg), and ethanol (50 mL) and stir and heat the mixture at reflux. After 4 hours 30 minutes, cool to ambient temperature and remove the catalyst by vacuum filtration through celite. Reduce the filtrate to residue and dissolve it in 1N NaOH. Extract with dichloromethane and combine, wash (brine), dry (sodium sulfate), and reduce the extracts to residue. Purify the residue on silica gel using dichloromethane/2N ammonia in methanol (80:20) to give the title compound as a white solid: mp 112–114° C.; mass spectrum (ion spray): m/z=209.3 (M+1); Analysis for C12H17FN2: calcd: C, 69.20; H, 8.23; N, 13.45; found: C, 68.97; H, 8.14; N, 13.21.

reactant | (S)-1,4-dibenzyl-2-(2-(4-fluoro-phenyl)-ethyl)-piperazine | 4.99 mmol, 1.94 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=CC=C(C=C1)F | C26H29FN2
reactant | ammonium formate | 24.95 mmol, 1.57 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 241.1 mg | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (S)-2-(2-(4-Fluoro-phenyl)-ethyl)-piperazine | FC1=CC=C(C=C1)CC[C@@H]1NCCNC1 | C12H17FN2
